US04074007
53 g (0.32 mol) of isophthalic acid, 53 g (0.27 mol) of trimellitic anhydride, 3 g (0.01 mol) of an azomethine obtained by reaction of 5-amino-isophthalic acid with salicylaldehyde, 0.85 g of tributylamine as catalyst, 196 g (0.7 mol) of 3.3'-dimethyl-4,4'-di-isocyanato-diphenylmethane and 700 g of N-methylprrolidone are stirred for 6 hours at 80° C. Subsequently, 43 g (0.1 mol) of 4,4'-bis-(ethoxalylamino)-diphenylmethane are stirred into the above mixture. The temperature is then raised to 195°C, and agitation is continued for a further 6 hours at this temperature. The fluorocarbon wax suspension as described in Example 2 is added to the trion resin solution so obtained in the same weight ratio.

reactant | 5-amino-isophthalic acid | NC=1C=C(C=C(C(=O)O)C1)C(=O)O | C8H7NO4
catalyst | salicylaldehyde | C(C=1C(O)=CC=CC1)=O | C7H6O2
catalyst | tributylamine | 0.85 g | C(CCC)N(CCCC)CCCC | C12H27N
product | isophthalic acid | 0.32 mol, 53 g | C(C1=CC(C(=O)O)=CC=C1)(=O)O | C8H6O4
